US04760140
(6R-trans)-3-[(Acetyloxy)methyl]-7-[(5-acetyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid
A mixture of 255 mg of (6R-trans)-3-[(acetyloxy)methyl]-7-[(5-acetyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester was reacted with anisole and trifluoroacetic acid in dichloromethane with stirring at 0° C. for 30 minutes, then at room temperature for 30 minutes. The addition of ether and petroleum ether gave a precipitate which was washed with ether, giving 135 mg of the desired product as a pale yellow powder.

reactant | (6R-trans)-3-[(acetyloxy)methyl]-7-[(5-acetyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, diphenylmethyl ester | 255 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC(=CN1)C(C)=O)=O)C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1 | C28H25N3O6S2
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | ether | CCOCC | C4H10O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (6R-trans)-3-[(Acetyloxy)methyl]-7-[(5-acetyl-2-thiazolyl)amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 135 mg | C(C)(=O)OCC1=C(N2C([C@H]([C@H]2SC1)NC=1SC(=CN1)C(C)=O)=O)C(=O)O | C15H15N3O6S2
